US09085577B2
[2-Chloro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropyl-amine (D35)
Bis(pinacolato)diboron (0.643 g, 2.531 mmol) and potassium acetate (0.466 g, 4.746 mmol) were added to a solution of intermediate compound D34 (0.390 g, 1.582 mmol) in dioxane (2 ml) and DMF (0.5 ml). The mixture was degassed and then [1,1′-bis(diphenylphosphino)-ferrocene]-dichloropalladium(II)— complex with DCM (1:1) (0.0348 g, 0.0475 mmol) was added. The reaction mixture was heated at 150° C. for 10 min. under microwave irradiation. After cooling to r.t., the reaction mixture was filtered through diatomaceous earth. The filtrate was evaporated in vacuo. The crude residue was purified by column chromatography (silica gel; heptane as eluent). The desired fractions were collected and concentrated in vacuo to afford intermediate compound D35 (0.269 g, 49%)

reactant | Bis(pinacolato)diboron | 2.531 mmol, 0.643 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 4.746 mmol, 0.466 g | C(C)(=O)[O-].[K+]
reactant | DCM | 0.0475 mmol, 0.0348 g | C(Cl)Cl | CH2Cl2
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | [2-Chloro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropyl-amine | ClC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC1CC1 | C15H21BClNO2
